US09226923B2
To a solution of 4-iodo-1H-pyrazole and tert-butyl 7-(methylsulfonyloxy)-2-azaspiro[3.5]nonane-2-carboxylate (70 mg, 0.219 mmol, 1.0 equiv) and 4-iodo-1H-pyrazole in DMF (1 mL) was added Cs2CO3 (79 mg, 0.241 mmol, 1.1 equiv). The mixture was stirred at 80° C. for 3 hrs. It was concentrated by rotary evaporator in vacuo to give the residue which was purified by CombiFlash (12 g silica gel column, EtOAc/Hex: 0-40%) to afford 74 mg (yield 81%) of tert-butyl 7-(4-iodo-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate as a off-white solid.

reactant | 4-iodo-1H-pyrazole | IC=1C=NNC1 | C3H3IN2
reactant | tert-butyl 7-(methylsulfonyloxy)-2-azaspiro[3.5]nonane-2-carboxylate | 0.219 mmol, 70 mg, 1.0 equiv | CS(=O)(=O)OC1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C14H25NO5S
reactant | Cs2CO3 | 0.241 mmol, 79 mg, 1.1 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 7-(4-iodo-1H-pyrazol-1-yl)-2-azaspiro[3.5]nonane-2-carboxylate | 74 mg, yield 81% | IC=1C=NN(C1)C1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C16H24IN3O2
